US05409943
(i) 2-Amino-3-(2-chloro-4,5-methylenedioxybenzyloxy)-pyridine
To a solution of 2-amino-3-hydroxypyridine (9.75 g, 0.0886 mol) in dichloromethane (55 ml) and 40% sodium hydroxide (55 ml) was added Adogen 464 (5 ml) and 6-chloropiperonyl chloride (20 g, 0,0975 mol) with vigorous stirring. The mixture was stirred at room temperature for 16 hours. Water (55 ml) was added and the mixture extracted with dichloromethane. The combined organic layers were dried and evaporated, and the residue purified by flash chromatography (silica, 1% methanol/dichloromethane) and trituration with ether to yield the title compound (6 g), m.p. 100°-104° C.

reactant | 2-amino-3-hydroxypyridine | 0.0886 mol, 9.75 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 6-chloropiperonyl chloride | 0,0975 mol, 20 g | C1OC2=C(O1)C=C(C(=C2)CCl)Cl | C8H6Cl2O2
reactant | Water | 55 ml | O | H2O
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 55 ml | [OH-].[Na+]
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2-chloro-4,5-methylenedioxybenzyloxy)-pyridine | 6 g | NC1=NC=CC=C1OCC1=C(C=C2C(=C1)OCO2)Cl | C13H11ClN2O3
